US06969710B2
8-Quinolinesulfonyl chloride (0.185 g, 0.81 mmol) was added to a solution of 2-amino-5-(4-methyl-1-piperazinyl)aniline (0.168 g, 0.81 mmol) and pyridine (514 mL, 6.39 mmol) in CH2Cl2. After 1 h at room temperature the mixture was washed with aq NaHCO3 (10%), dried (MgSO4) and the solvent was removed. Purification by chromatography (SiO2, CH2Cl2/MeOH/heptane, 4:1:5) gave N-2-amino-4-(4-methyl-1-piperazinyl)-]-phenyl-8-quinolinesulfonamide (0.110 g , 35%). MS (posES-FIA) m/z=found: 384.2. calcd 383.48. %); Anal. (C19H22ClN5O2S.3H2O ) C, H, N, S and a small amount of the bis-sulfonylated N-{4-(4-methyl-1-piperazinyl)-2-[(8-quinolinylsulfonyl)amino]phenyl}-8-quinolinesulfonamide (0.070 g, 15%). The product was converted to HCl salt before analysis; MS (posES-FIA) m/z=found: 589.6. calcd: 588.16. Anal. (C29H29ClN6O4S2.2H2O) C, H, N.

reactant | 8-Quinolinesulfonyl chloride | 0.81 mmol, 0.185 g | N1=CC=CC2=CC=CC(=C12)S(=O)(=O)Cl | C9H6ClNO2S
reactant | 2-amino-5-(4-methyl-1-piperazinyl)aniline | 0.81 mmol, 0.168 g | NC1=C(N)C=C(C=C1)N1CCN(CC1)C | C11H18N4
reactant | pyridine | 6.39 mmol, 514 mL | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | phenyl-8-quinolinesulfonamide | 0.110 g, 35% | C1(=CC=CC=C1)C1=NC2=C(C=CC=C2C=C1)S(=O)(=O)N | C15H12N2O2S
